US08802712B2
4-(8-Hydroxy-7-methoxy-3-methyl-3H-pyrazolo[3,4-c]quinolin-1-yl)benzonitrile (97.7 mg, 296 μmol) is dissolved in N,N-dimethylformamide (3.7 ml). Potassium carbonate (102 mg, 738 μmol) and 2-bromo-2-(4-fluorophenyl)acetamide (170 mg, 733 μmol) are subsequently added. The reaction mixture is stirred at 120° C. for 18 h. When the reaction is complete, the mixture is poured into water (50 ml) and extracted three times with ethyl acetate (50 ml each time). The combined organic phases are dried over Na2SO4, filtered with suction and evaporated in vacuo. The residue is then suspended in a little 2-propanol, filtered off with suction and dried in a high vacuum, giving 2-[1-(4-cyanophenyl)-7-methoxy-3-methyl-3H-pyrazolo[3,4-c]quinolin-8-yloxy]-2-(4-fluorophenyl)acetamide (68 mg, 141 μmol) as a solid having a melting point of 249.2° C. MS: 482.1 (M+H+), TLC (HPTLC): Rf=0.31 (ethyl acetate/ethanol 8:1, parts by volume).

reactant | 4-(8-Hydroxy-7-methoxy-3-methyl-3H-pyrazolo[3,4-c]quinolin-1-yl)benzonitrile | 296 μmol, 97.7 mg | OC1=CC=2C3=C(C=NC2C=C1OC)N(N=C3C3=CC=C(C#N)C=C3)C | C19H14N4O2
reactant | Potassium carbonate | 738 μmol, 102 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-2-(4-fluorophenyl)acetamide | 733 μmol, 170 mg | BrC(C(=O)N)C1=CC=C(C=C1)F | C8H7BrFNO
reactant | water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | 3.7 ml | CN(C=O)C | C3H7NO
product | 2-[1-(4-cyanophenyl)-7-methoxy-3-methyl-3H-pyrazolo[3,4-c]quinolin-8-yloxy]-2-(4-fluorophenyl)acetamide | 141 μmol, 68 mg | C(#N)C1=CC=C(C=C1)C1=NN(C=2C=NC=3C=C(C(=CC3C21)OC(C(=O)N)C2=CC=C(C=C2)F)OC)C | C27H20FN5O3
